US03936454
5-Amino-4-chloro-6-(3,4-dimethoxybenzylamino)pyrimidine
A reaction mixture containing 1.00 g (6.09 mmols) of 4,6-dichloro-5-aminopyrimidine, 1.22 g (7.30 mmols) of 3,4-dimethoxybenzylamine, 1.02 ml (7.30 mmols) of triethylamine and 35 ml of 1-butanol was refluxed overnight for 17 hours. Evaporation of the reaction mixture in vacuo gave a residual oil which was crystallized by trituration with water. The crude yellow solid was recrystallized from methanol-water to give 1.61 g (90.1%), mp 185°-188°, of crystalline product. The analytical sample was obtained by recrystallization from methanol-water; yield, 1.36 g (76.9%); mp 188°-191°.

reactant | 4,6-dichloro-5-aminopyrimidine | 6.09 mmols, 1.00 g | ClC1=NC=NC(=C1N)Cl | C4H3Cl2N3
reactant | 3,4-dimethoxybenzylamine | 7.30 mmols, 1.22 g | COC=1C=C(CN)C=CC1OC | C9H13NO2
reactant | triethylamine | 7.30 mmols, 1.02 ml | C(C)N(CC)CC | C6H15N
reactant | 1-butanol | 35 ml | C(CCC)O | C4H10O
solvent | methanol water | CO.O
product | 5-Amino-4-chloro-6-(3,4-dimethoxybenzylamino)pyrimidine | NC=1C(=NC=NC1NCC1=CC(=C(C=C1)OC)OC)Cl | C13H15ClN4O2
